US05175301
N-(6-Chloro-3-pyridylmethyl)phthalimide
In 20 ml of EtOH, 9.4 g (6.4×10-2 mole) of phthalimide and 4.2 g of KOH were stirred for 30 minutes, followed by addition of 100 ml of DMF (dimethylformamide) and 5.2 g (2.5×10-2 mole) of 6-chloro-3-pyridylmethyl chloride. The mixture was stirred at 60° C. for 1 hour. The EtOH and DMF were distilled off under reduced pressure and the residue was chromatographed on a silica gel column and eluted with CH2Cl2. The above procedure gave 6.7 g of the title compound as colorless needles.

reactant | phthalimide | 6.4×10-2 mole, 9.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | KOH | 4.2 g | [OH-].[K+]
reactant | DMF | 100 ml | CN(C=O)C | C3H7NO
reactant | 6-chloro-3-pyridylmethyl chloride | 2.5×10-2 mole, 5.2 g | ClC1=CC=C(C=N1)CCl | C6H5Cl2N
solvent | EtOH | 20 ml | CCO | C2H6O
product | N-(6-Chloro-3-pyridylmethyl)phthalimide | 6.7 g | ClC1=CC=C(C=N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H9ClN2O2
